US07105563B2
To a suspension of 5-cyanoindolin-2-one (158 mg, 1 mmol) in ethanol (15 mL) was added 2-acetylpyrrole (95 mg, 1 mmol) and piperidine (0.1 mL). The reaction mixture was refluxed for 2 hours. A golden-colored product precipitated from the reaction mixture, which was filtered and washed with ethanol to afford 5-cyano-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one; (160 mg) 1H NMR (400 MHz, DMSO-d6) δ 2.80 (s, 3H), 6.40. (m, 1H), 7.04 (d, 1H), 7.20 (m, 1H), 7.42 (m, 1H), 7.60 (dd, 1H), 8.04 (s, 1H), 11.40 (s, 1H) ppm.

reactant | 5-cyanoindolin-2-one | 1 mmol, 158 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 2-acetylpyrrole | 1 mmol, 95 mg | C(C)(=O)C=1NC=CC1 | C6H7NO
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-cyano-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | C(#N)C=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C15H11N3O
